US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.40 g, 0.72 mmol), 4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.30 g, 0.65 mmol), and N,N-diisopropylethylamine (0.52 mL, 3.02 mmol) in acetonitrile (10 mL). Heat to reflux. After 24 hours, cool and partition the reaction mixture between ethyl acetate and a half saturated aqueous sodium bicarbonate solution. Separate the organic layer extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10% methanol/dichloromethane/0.1% concentrated aqueous ammonia solution to give the title compound: Rf=0.45 (silica gel, 10% methanol/dichloromethane/0.1% concentrated aqueous ammonia solution).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.72 mmol, 0.40 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OC | C23H29NO7S
reactant | 4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 0.65 mmol, 0.30 g | I.O=C(CCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2)C
reactant | N,N-diisopropylethylamine | 3.02 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol dichloromethane | CO.ClCCl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCCC(C)=O)C=CC=C3)C=C(C1OC)OC | C39H49N5O5
